### PR TITLE
Induction principle example and doc

### PR DESCRIPTION
**Pull request by sonmarcho**
This PR introduces documentation together with a minimal example to illustrate the use of an induction principle in Dafny.

### CODE REVIEW

File: Test/tutorial/induction-principle.md [hunk 1]
```diff
@@ -0,0 +1,779 @@
...
+
+    // Omitted
+    case ... =>
+      ...
+}
+```
+
+We face the problem that the proof of the `Seq` case requires introducing the same
+intermediate values as the ones manipulated by the interpreter (like `ctx1`), so that we
+can *write* the recursive calls to `InterpExpr_Pure_WithLocals` (which give us our
```
Comment (MikaelMayer) [inline Test/tutorial/induction-principle.md:153]: What is this lemma? How does it relate to `InterpExpr` ? I'm not sure I understand the logic here. It uses "..." for the spec, but it was never defined before.

File: Test/tutorial/induction-principle.md [hunk 2]
```diff
@@ -0,0 +1,779 @@
...
+The problem when verifying compiler transformations is that we can't use Dafny's native
+equality anymore, because local rewritings might modify the body of closures and hence their
+values: we can't reason with a *syntactic* equality. We thus need to introduce a *semantic*
+equality over values. This semantic equality would state that two closures are equal if,
+when called on equal inputs (in the sense of this semantic equality), they evaluate
+to equal results (in the sense of this semantic equality, again), in the spirit of the
+following predicate:
+
+```dafny
+predicate EqValue(cv: Value, cv': Closure)
```
Comment (MikaelMayer) [inline Test/tutorial/induction-principle.md:732]:
```suggestion
predicate EqValue(cv: Value, cv': Value)
  requires cv.Closure? && cv'.Closure?
```
?

File: Test/tutorial/induction-principle.md (hunk 1 above)
Comment (sonmarcho) [reply Test/tutorial/induction-principle.md]: Thanks for this! I renamed ands merged some predicates just before the PR, and missed the associated lemmas. I updated the document accordingly (here, the reference should be to `InterpExpr_Pure`, which is declared just above, hence the `...`).

File: Test/tutorial/induction-principle.md (hunk 2 above)
Comment (sonmarcho) [reply Test/tutorial/induction-principle.md]: Thanks for noticing the typo! I renamed the predicate to `EqValue_Closure`, as its purpose is to illustrate the equivalence relation for the closures case (and consistently changed the types to `Closure`)

File: Test/tutorial/induction-principle/VarUnchanged.dfy [hunk 3]
```diff
@@ -0,0 +1,212 @@
+// RUN: %dafny /compile:0 /print:"%t.print" /dprint:"%t.dprint" "%s" > "%t"
```
Comment (davidcok) [inline Test/tutorial/induction-principle/VarUnchanged.dfy:1]:
```suggestion
// RUN: %baredafny verify %args "%s" > "%t"
```

Comment (davidcok) [inline Test/tutorial/induction-principle/VarUnchanged.dfy:1]:
```suggestion
// RUN: %baredafny verify %args "%s" > "%t"
```

Comment (davidcok) [inline Test/tutorial/induction-principle/VarUnchanged.dfy:1]:
```suggestion
// RUN: %baredafny verify %args "%s" > "%t"
```

Comment (davidcok) [inline Test/tutorial/induction-principle/VarUnchanged.dfy:1]:
```suggestion
// RUN: %baredafny verify %args "%s" > "%t"
```

File: Test/tutorial/induction-principle.md [hunk 4]
```diff
@@ -0,0 +1,782 @@
...
+In the context of verifying a compiler, we need to introduce a semantics for the compiled
+language. We can do so by defining a function `InterpExpr(e: Expr, st: State):
+Result<(Value, State), Error>`, which given an expression and an initial state either
+returns an error (division by zero, access to an unbound variable, etc.) or returns the
+value this expression evaluates to, together with the new state in which the execution
+terminates.
+
+Verifying the compiler then requires us to repeatedly state and prove lemmas about this
+`InterpExpr` function. For instance, given a transformation `TR: (Expr) -> Expr`, we might
+express the correctness of the transformation in the following way (which says that the new program fails no more often that
```
Comment (davidcok) [inline Test/tutorial/induction-principle.md:25]:
```suggestion
express the correctness of the transformation in the following way (which says that the new program fails no more often than
```

File: Test/tutorial/induction-principle.md [hunk 5]
```diff
@@ -0,0 +1,782 @@
...
+
+```dafny
+forall e, st ::
+  IsPure(e) ==>
+    match InterpExpr(e, st)
+      case Success((_, st')) => st' == st // state is unchanged
+      case Failure => true
+```
+
+**Note:** we mention above that not all lemmas can be proved by induction over the syntax.
```
Comment (davidcok) [inline Test/tutorial/induction-principle.md:52]:
```suggestion
**Note:** We mention above that not all lemmas can be proved by induction over the syntax.
```

File: Test/tutorial/induction-principle.md [hunk 6]
```diff
@@ -0,0 +1,782 @@
...
+It is for instance the case if the AST contains loops, in which situation we often need to
+manipulate a notion of fuel when defining the interpreter: the lemmas then require doing
+the induction also on the fuel. Let's assume we can always do the induction on the syntax only
+(and in particular that don't have loops).
```
Comment (davidcok) [inline Test/tutorial/induction-principle.md:56]:
```suggestion
(and in particular that there are no loops).
```

File: Test/tutorial/induction-principle.md [hunk 7]
```diff
@@ -0,0 +1,782 @@
...
+  decreases e
+  // `locals`: the set of local variables which have been introduced by outer
+  // let-bindings (if the expression only updates those variables then it is
+  // pure, because those variables don't escape the scope of the term).
+{
+  match e
+    case Var(name) => true
+    case Literal(n) => true
+    case Bind(bvar, bval, body) =>
+      IsPure(bval, locals)
```
Comment (davidcok) [inline Test/tutorial/induction-principle.md:80]:
```suggestion
      && IsPure(bval, locals)
```

File: Test/tutorial/induction-principle.md [hunk 8]
```diff
@@ -0,0 +1,782 @@
...
+
+  ... // Other cases: omitted
+
+  // And we get the theorem for all `e` for free!
+}
+```
+
+### Refined induction principle - verifying `Pure`
+
+Stating an induction principle the way we did above allows to factorize a lot of work,
```
Comment (davidcok) [inline Test/tutorial/induction-principle.md:321]:
```suggestion
Stating an induction principle the way we did above enables factorizing a lot of work,
```

File: Test/tutorial/induction-principle.md [hunk 9]
```diff
@@ -0,0 +1,782 @@
...
+`P_Succ` and `P_Fail` must satisfy the following important property:
+
+```dafny
+lemma P_ExcludedMiddle(locals: set<string>, ctx: Context, e: Expr)
+  ensures P(locals, ctx, e) <==> P_Fail(locals, ctx, e) || exists ctx', v :: P_Succ(locals, ctx, e, ctx', v)
+```
+
+<br>
+
+**Note:** in the generic induction principle, we actually don't request the property `P_ExcludedMiddle`
```
Comment (davidcok) [inline Test/tutorial/induction-principle.md:366]:
```suggestion
**Note:** In the generic induction principle, we actually don't request the property `P_ExcludedMiddle`
```

File: Test/tutorial/induction-principle.md [hunk 10]
```diff
@@ -0,0 +1,782 @@
...
+
+<a id="section-increments-seq"></a>
+
+### A more general version of `Seq`: `Seq(expr, expr) ---> Seq(seq<Expr>)`
+
+The first modification we do is to transform the `Seq` case from `Seq(e1: Expr, e2: Expr)`
+to `Seq(seq<Expr>)`. This requires adding a function to interpret sequences of expressions.
+Anticipating a bit on the next language extension we will implement (allowing assignments
+and let-bindings to update/declare a sequence of variables -
+see [next section](#section-increments-varseq)), we define this function so that it returns
```
Comment (davidcok) [inline Test/tutorial/induction-principle.md:593]:
```suggestion
Anticipating a bit on the next language extension we will implement allowing assignments
and let-bindings to update/declare a sequence of variables -
see [next section](#section-increments-varseq); we define this function so that it returns
```

File: Test/tutorial/induction-principle.md [hunk 11]
```diff
@@ -0,0 +1,782 @@
...
+```
+
+### Updating the induction principle
+Because of this new `InterpExprs` function, we need to add new predicates to the induction principles.
+We previously introduced `P`, `P_Succ` and `P_Fail` to state properties about `InterpExpr`,
+we now need to introduce `Pes`, `Pes_Succ` and `Pes_Fail`, to state properties about `InterpExprs`.
+Similarly to the `P` predicates which manipulate values of type `V`, the `Pes` predicates
+manipulate sequences of values of type `VS`.
+
+**Note:** if you wonder why we parameterize the induction principle by `V` and `VS`,
```
Comment (davidcok) [inline Test/tutorial/induction-principle.md:617]:
```suggestion
**Note:** If you wonder why we parameterize the induction principle by `V` and `VS`,
```

File: Test/tutorial/induction-principle.md [hunk 12]
```diff
@@ -0,0 +1,782 @@
...
+lemma InductExprs_Nil(st: S)
+  ensures !Pes_Fail(st, []) ==> Pes_Succ(st, [], st, NilVS)
+
+lemma InductExprs_Cons(st: S, e: Expr, es: seq<Expr>)
+  ensures P_Fail(st, e) ==> Pes_Fail(st, [e] + es)
+  ensures !P_Fail(st, e) ==> forall st1, v :: P_Succ(st, e, st1, v) && Pes_Fail(st1, es) ==> Pes_Fail(st, [e] + es)
+  ensures forall st1, v, st2, vs :: P_Succ(st, e, st1, v) && Pes_Succ(st1, es, st2, vs) ==> Pes_Succ(st, [e] + es, st2, AppendValue(v, vs))
+```
+
+**Note**: we grouped several cases in `InductExprs_Cons` and used forall quantifiers. The reason
```
Comment (davidcok) [inline Test/tutorial/induction-principle.md:657]:
```suggestion
**Note**: We grouped several cases in `InductExprs_Cons` and used forall quantifiers. The reason
```

File: Test/tutorial/induction-principle.md [hunk 13]
```diff
@@ -0,0 +1,782 @@
...
+case, in the sense that we often only need to have the induction hypotheses properly instantiated
+in the context, and the context often remains small. We do however want to split cases and control
+the context in cases like `Bind`, which often require a fair amount of work for
+non-trivial proofs (e.g., when studying variable inlining).
+
+### Updating the proofs
+
+Interestingly, the proofs for `Pure`, and `EliminateMulZero` only require
+to introduce new definitions (for `Pes` for instance). They do not require to actually
+update broken proofs. In addition, proving the `InductExprs_Cons` lemma for `VarUnchanged`
```
Comment (davidcok) [inline Test/tutorial/induction-principle.md:668]:
```suggestion
Interestingly, the proofs for `Pure`, and `EliminateMulZero` only require
introducing new definitions (for `Pes` for instance). They do not require actually
updating broken proofs. In addition, proving the `InductExprs_Cons` lemma for `VarUnchanged`
```

File: Test/tutorial/induction-principle.md [hunk 14]
```diff
@@ -0,0 +1,782 @@
...
+
+As expected, the `PureNoInductionPrinciple` proof requires the `Assign` and `Bind` cases
+to be updated.
+
+**Note:** if you look at the number of lines of code, you will notice that updating or
+providing the definitions required by the induction principle forces us to modify more lines
+of code that updating the proofs when not using the induction principle. The question then
+is how straightforward it is to update or provide those definitions, compared to the cost
+of updating broken proofs when we don't use the induction principle. So far, we experienced
+more pain when updating the proofs. It is also worth mentionning the fact that, in the
```
Comment (davidcok) [inline Test/tutorial/induction-principle.md:706]:
```suggestion
more pain when updating the proofs. It is also worth mentioning the fact that, in the
```

File: Test/tutorial/induction-principle.md [hunk 15]
```diff
@@ -0,0 +1,782 @@
...
+non-trivial proofs (e.g., when studying variable inlining).
+
+### Updating the proofs
+
+Interestingly, the proofs for `Pure`, and `EliminateMulZero` only require
+to introduce new definitions (for `Pes` for instance). They do not require to actually
+update broken proofs. In addition, proving the `InductExprs_Cons` lemma for `VarUnchanged`
+also requires writing an assertion to help the SMT solver.
+
+The proof of correctness of `IsPure` which doesn't use the induction principle
```
Comment (davidcok) [inline Test/tutorial/induction-principle.md:671]:
```suggestion
The proof of correctness of `IsPure` that doesn't use the induction principle
```

File: Test/tutorial/induction-principle.md [hunk 16]
```diff
@@ -0,0 +1,782 @@
...
+      && x in ctx'.Keys // x is also in the new environment
+      && ctx'[x] == ctx[x] // x maps to the same value as before
+    case Failure =>
+      true
+  Pre(st, e) ==> ResultSameX(st, res)
+```
+
+Because of the potential shadowing appearing in the `Bind` case, we actually can't use this
+property directly in the inductive proof. We actually have to make the `x` string optional
+(see the [code development](induction-principle/VarUnchanged.dfy) for the full details). Once this detail properly handled, all the
```
Comment (davidcok) [inline Test/tutorial/induction-principle.md:574]:
```suggestion
(see the [code development](induction-principle/VarUnchanged.dfy) for the full details). Once this detail is properly handled, all the
```

File: Test/tutorial/induction-principle.md (hunk 13 above)
Comment (davidcok) [inline Test/tutorial/induction-principle.md:668]:
```suggestion
Interestingly, the proofs for `Pure`, and `EliminateMulZero` only require
introducing new definitions (for `Pes` for instance). They do not require actually
updating broken proofs. In addition, proving the `InductExprs_Cons` lemma for `VarUnchanged`
```

File: Test/tutorial/induction-principle.md [hunk 17]
```diff
@@ -0,0 +1,782 @@
...
+    case ... =>
+      ...
+}
+```
+
+As a result, the proof above basically duplicates the code of the interpreter. This is
+true for all the cases of `Expr`, and has to be done for all the lemmas we prove about the
+interpreter, leading to obvious scalability issues.
+
+**Note:** the full proof without the induction principle is defined in the [`PureNoInductionPrinciple`](induction-principle/PureNoInductionPrinciple.dfy)
```
Comment (davidcok) [inline Test/tutorial/induction-principle.md:178]:
```suggestion
**Note:** The full proof without the induction principle is defined in the [`PureNoInductionPrinciple`](induction-principle/PureNoInductionPrinciple.dfy)
```

File: Test/tutorial/induction-principle.md [hunk 18]
```diff
@@ -0,0 +1,782 @@
...
+  && forall inputs, inputs' |
+       && |inputs| == |inputs'| == |cv.vars|
+       && (forall i | 0 <= i < |inputs| :: EqValue(inputs[i], inputs'[i])) ::
+       var ctx := InitializeClosureCtx(cv.vars, inputs);
+       var ctx' := InitializeClosureCtx(cv'.vars, inputs');
+       EqResult(InterpExpr(cv.body, ctx), InterpExpr(cv'.body, ctx'))
+}
+```
+
+**Note:** this predicate is simplified for the purpose of illustration. For the "real"
```
Comment (davidcok) [inline Test/tutorial/induction-principle.md:747]:
```suggestion
**Note:** This predicate is simplified for the purpose of illustration. For the "real"
```

Comment (davidcok) [inline Test/tutorial/induction-principle.md:747]:
```suggestion
**Note:** This predicate is simplified for the purpose of illustration. For the "real"
```

File: Test/tutorial/induction-principle.md [hunk 19]
```diff
@@ -0,0 +1,782 @@
...
+
+Updating the interpreter and the induction principle is then
+straightforward. Interestingly, the proofs using the induction principle (`VarUnchanged`,
+`Pure` and `EliminateMulZero`) only require updates to the definitions declared (and not
+defined) by the induction principle: none of the proofs break.
+
+As expected, the `PureNoInductionPrinciple` proof requires the `Assign` and `Bind` cases
+to be updated.
+
+**Note:** if you look at the number of lines of code, you will notice that updating or
```
Comment (davidcok) [inline Test/tutorial/induction-principle.md:701]:
```suggestion
**Note:** If you look at the number of lines of code, you will notice that updating or
```

File: Test/tutorial/induction-principle.md [hunk 20]
```diff
@@ -0,0 +1,782 @@
...
+Now that we introduced a way of reasoning about sequences of expressions, we can update
+`Bind` and `Assign` to allow updating/introducing several variables at once! We do the following
+updates in the AST:
+
+```dafny
+Bind(bvar: string, bval: Expr, body: Expr)   -->   Bind(bvars: seq<string>, bvals: seq<Expr>, body: Expr)
+Assign(avar: string, aval: Expr)             -->   Assign(avars: seq<string>, avals: seq<Expr>)
+```
+
+**Note:** in the [code development](induction-principle/AST.dfy), we actually rename `Expr` to `Expr_Raw` and define
```
Comment (davidcok) [inline Test/tutorial/induction-principle.md:688]:
```suggestion
**Note:** In the [code development](induction-principle/AST.dfy), we actually rename `Expr` to `Expr_Raw` and define
```

**Review by davidcok — CHANGES_REQUESTED** [review]

**Review by davidcok — APPROVED** [review]
